US07727988B2
5-(2-Chloro-pyridin-3-yl)-1H-pyrimidine-2,4-dione hydrochloride (Prep95)
5-(2-Chloro-pyridin-3-yl)-2,4-dimethoxy-pyrimidine (Prep94, 3.76 mmol) was dissolved in MeOH (10 ml), then 2N HClaq (8 ml) was added. After refluxing the reaction mixture for 4 hours, the solvent was removed under vacuum to give the title compound (quantitative yield)

reactant | 5-(2-Chloro-pyridin-3-yl)-2,4-dimethoxy-pyrimidine | 3.76 mmol | ClC1=NC=CC=C1C=1C(=NC(=NC1)OC)OC | C11H10ClN3O2
solvent | MeOH | 10 ml | CO | CH4O
product | 5-(2-Chloro-pyridin-3-yl)-1H-pyrimidine-2,4-dione hydrochloride | quantitative yield | Cl.ClC1=NC=CC=C1C=1C(NC(NC1)=O)=O | InChI=1S/C9H6ClN3O2.ClH/c10-7-5(2-1-3-11-7)6-4-12-9(15)13-8(6)14;/h1-4H,(H2,12,13,14,15);1H
